US07067517B2
1,3-Dihydro-isoindole-2-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester
The title compound was prepared from 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenol and 3-(1,3-dihydro-isoindole-2-carbonyl)-1-methyl-3H-imidazol-1-ium iodide. The crude product was recrystallized (ethanol) (≈100). HPLC-MS m/z=401.1 (M+1), Rt: 5.1 min.

reactant | 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenol | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)O)(F)F | C12H8F3NO2
reactant | 3-(1,3-dihydro-isoindole-2-carbonyl)-1-methyl-3H-imidazol-1-ium iodide | [I-].C1N(CC2=CC=CC=C12)C(=O)N1C=[N+](C=C1)C
product | 1,3-Dihydro-isoindole-2-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)OC(=O)N1CC2=CC=CC=C2C1)(F)F | C21H15F3N2O3
